US03933836
A. 2-amino-1-(phenylmethyl)pyridinium bromide
A solution of α-bromotoluene (100.0 g), 2-aminopyridine (82.0 g) and 1000 ml of xylene are heated under reflux for 7 hours to give 99.1 g of the title compound, melting point 187°-190°C.

reactant | α-bromotoluene | 100.0 g | BrCC1=CC=CC=C1 | C7H7Br
reactant | 2-aminopyridine | 82.0 g | NC1=NC=CC=C1 | C5H6N2
solvent | xylene | 1000 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-amino-1-(phenylmethyl)pyridinium bromide | 99.1 g | [Br-].NC1=[N+](C=CC=C1)CC1=CC=CC=C1 | InChI=1S/C12H12N2.BrH/c13-12-8-4-5-9-14(12)10-11-6-2-1-3-7-11;/h1-9,13H,10H2;1H
